US08703768B2
Step 2: 4-Amino-N-(2-hydroxy-2-methylpropyl)-N,1-dimethyl-1H-pyrazole-3-carboxamide
A solution of N-(2-hydroxy-2-methylpropyl)-N,1-dimethyl-4-nitro-1H-pyrazole-3-carboxamide (1.2 g, 4.7 mmol) in ethanol (30 ml) was flushed with argon and treated with palladium on carbon 10% (120 mg, 1.13 mmol). The reaction mixture was evacuated and flushed with hydrogen and stirred at ambient temperature for 16 h. The reaction mixture was filtered, washed with ethanol and concentrated in vacuo to yield the product as dark red oil (1.0 g, 80%) which was used without any further purification.

reactant | N-(2-hydroxy-2-methylpropyl)-N,1-dimethyl-4-nitro-1H-pyrazole-3-carboxamide | 4.7 mmol, 1.2 g | OC(CN(C(=O)C1=NN(C=C1[N+](=O)[O-])C)C)(C)C | C10H16N4O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.13 mmol, 120 mg | [Pd] | Pd
product | 4-Amino-N-(2-hydroxy-2-methylpropyl)-N,1-dimethyl-1H-pyrazole-3-carboxamide | 1.0 g, 80% | NC=1C(=NN(C1)C)C(=O)N(C)CC(C)(C)O | C10H18N4O2
